US05874194
N-(4-vinylbenzoyl)methanesulfonarnide was prepared according to step 2 of Example 1 from N-[4-(2-bromoethyl)benzoyl]methanesulfonamide and 1,8-diazabicyclo-[5.4.0]undec-7-ene (DBU) in THF.

reactant | N-[4-(2-bromoethyl)benzoyl]methanesulfonamide | BrCCC1=CC=C(C(=O)NS(=O)(=O)C)C=C1 | C10H12BrNO3S
reactant | 1,8-diazabicyclo-[5.4.0]undec-7-ene | N12CCCCCC2=NCCC1 | C9H16N2
solvent | THF | C1CCOC1 | C4H8O
product | N-(4-vinylbenzoyl)methanesulfonarnide | C(=C)C1=CC=C(C(=O)NS(=O)(=O)C)C=C1 | C10H11NO3S
